US07723329B2
A mixture of 2-(3-benzenesulfonylmethyl-4-nitro-phenoxy)-ethanol (8.2 g, 24 mmol), p-toluenesulfonyl chloride (9.39 g, 49.3 mmol) and triethylamine (19 mL, 140 mmol) in methylene chloride (85 mL) was stirred at ambient temperature under nitrogen for 4.5 hours. It then was solvent evaporated and partitioned in methylene chloride and aqueous sodium bicarbonate. The organic phase was then washed with brine, dried with anhydrous magnesium sulfate, filtered, concentrated and dried in vacuo at 63° C. for 30 minutes. The residue was purified by flash chromatography with 100% chloroform and 5% methanol in chloroform. It was dried in vacuo at 65° C. for 20 minutes to yield toluene-4-sulfonic acid 2-(3-benzenesulfonylmethyl-4-nitro-phenoxy)-ethyl ester as a yellow solid (8.1 g, 69%); Mass spectrum (−EI, [M−H]−) m/z 490. 1HNMR (300 MHz, DMSO-d6): δ7.99 (d, 1H, J=9.02 Hz), 7.67-7.75 (m, 3H), 7.54-7.62 (m, 4H), 7.43 (d, 2H, J=7.93 Hz), 7.00 (dd, 1H, J=9.15 Hz and 2.80 Hz), 6.78 (d, 1H, J=2.81 Hz), 5.09 (s, 2H), 4.29-4.31 (m, 2H), 4.13-4.15 (m, 2H), 2.37 ppm (s, 3H). Elemental Analysis for C22H21NO8S 0.40 mol H2O: Calcd: C, 52.98; H, 4.41; N, 2.81; Found: C, 52.67; H, 4.26; N, 2.61.

reactant | 2-(3-benzenesulfonylmethyl-4-nitro-phenoxy)-ethanol | 24 mmol, 8.2 g | C1(=CC=CC=C1)S(=O)(=O)CC=1C=C(OCCO)C=CC1[N+](=O)[O-] | C15H15NO6S
reactant | p-toluenesulfonyl chloride | 49.3 mmol, 9.39 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 140 mmol, 19 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 85 mL | C(Cl)Cl | CH2Cl2
product | toluene-4-sulfonic acid 2-(3-benzenesulfonylmethyl-4-nitro-phenoxy)-ethyl ester | 8.1 g, 69% | C1(=CC=CC=C1)S(=O)(=O)CC=1C=C(OCCOS(=O)(=O)C2=CC=C(C=C2)C)C=CC1[N+](=O)[O-] | C22H21NO8S2
